US06071927
2-Bromo-4-fluoro-(2,2,2-trifluoroethoxy)benzene
To a solution of 2-bromo-4-fluorophenol (4 g) and 2,2,2-trifluoroethoxy-p-toluene sulphonate (5 g) in dimethylformamide (40 ml) was slowly added sodium hydride (1 g, 60% in oil) and the mixture then heated at 110° C. for 12 h. The solution was cooled, diluted with water (500 ml) and the product extracted into ethyl acetate (2×150 ml). The organic phase was washed with saturated NaHCO3 solution, water, saturated brine and dried (MgSO4). The solvent was removed in vacuo and the residue was chromatographed on silica gel (eluting with diethyl ether/hexane (1:5)) to give the title compound as a colourless oil. 1H NMR (250 MHz, CDCl3) δ4.36 (2H, q, J 8 Hz), 6.91-7.05 (2H, m), and 7.33 (1H, dd, J 8, 3 Hz).

reactant | 2-bromo-4-fluorophenol | 4 g | BrC1=C(C=CC(=C1)F)O | C6H4BrFO
reactant | 2,2,2-trifluoroethoxy-p-toluene sulphonate | 5 g | FC(COC1=C(C=CC(=C1)S(=O)(=O)[O-])C)(F)F
reactant | sodium hydride | 1 g | [H-].[Na+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | water | 500 ml | O | H2O
product | 2-Bromo-4-fluoro-(2,2,2-trifluoroethoxy)benzene | BrC1=C(C=CC(=C1)F)OCC(F)(F)F | C8H5BrF4O
